US04068085
5.75 parts of 6-chloro-2-isopropoxypropylamino-4-methyl-3-nitropyridine, 5 parts of dimethylaminopropylamine and 20 parts of alcohol are heated at 90° to 100° C for 12 hours. The excess amine and alcohol are distilled off in vacuo and the residue is extracted with chloroform. After distilling off the solvent from the chloroform solution, 6-dimethylaminopropylamino-2-isopropoxypropylamino-4-methyl-3-nitropyridine is obtained as a yellow substance.

reactant | 6-chloro-2-isopropoxypropylamino-4-methyl-3-nitropyridine | ClC1=CC(=C(C(=N1)NCC(C)OC(C)C)[N+](=O)[O-])C | C12H18ClN3O3
reactant | dimethylaminopropylamine | CN(C)CCCN | C5H14N2
product | 6-dimethylaminopropylamino-2-isopropoxypropylamino-4-methyl-3-nitropyridine | CN(C)CCCNC1=CC(=C(C(=N1)NCC(C)OC(C)C)[N+](=O)[O-])C | C17H31N5O3
